US07544679B2
A solution of 350 mg (1.56 mmol) (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one and 327 mg (1.72 mmol) (R/S)-2-hydroxy-2-isobutyl-malonic acid monomethyl ester in 30 ml tetrahydrofuran were cooled to 0° C. and 232 mg (1.72 mmol) 1-hydroxy-benzotriazole hydrate, 584 μl (3.43 mmol) diisopropylethylamine and 329 mg (192 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight at room temperature. Extraction with water/ethylacetate and chromatography on silicagel with heptane/ethylacetate (gradient 90/10 to 50/50) yielded 470 mg (76%) (R/S)-2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid methyl ester as a colorless foam, MS (m/e): 397.3 (M+H)+.

reactant | (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one | 1.56 mmol, 350 mg | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | (R/S)-2-hydroxy-2-isobutyl-malonic acid monomethyl ester | 1.72 mmol, 327 mg | COC(C(C(=O)O)(CC(C)C)O)=O | C8H14O5
reactant | 1-hydroxy-benzotriazole hydrate | 1.72 mmol, 232 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 3.43 mmol, 584 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 192 mmol, 329 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (R/S)-2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid methyl ester | 470 mg, 76% | COC(C(CC(C)C)(C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O)O)=O | C22H24N2O5
